US07456283B2
Preparation of 4-(4-methyl-piperazin-1-ylmethyl)-N-[4-methyl-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-phenyl]-benzamide
To a mixture of 4-(3-pyridyl)-2-pyrimidine-amine (172.2 mg, 1.0 mmol), N-(3-bromo-4-methyl-phenyl)-4-(4-methyl-piperazin-1-ylmethyl)-benzamide (402.4 mg, 1.0 mmol) and sodium tert.-butylate (144.2 mg, 1.5 mmol) is added a mixture of rac-BINAP (31.2 mg, 0.050 mmol) and Pd2(dba)3*CHCl3 (13 mg, 0.013 mmol) under argon. After addition of 3 ml of xylene the suspension is sonicated for 10 minutes then stirred for 5 hours under reflux. After cooling to room temperature, water (10 ml) is added to the dark brown oil and the product extracted 4 times with methylene chloride (10 ml each). The combined organic extracts are dried over MgSO4 and concentrated in vacuo. The brown oil is purified by flash-chromatography (SiO2, methanol). The product, a pale yellow solid is dissolved in methylene chloride, filtered and concentrated in vacuo. Yield: 484.3 mg of the title compound, 72% of theory, (99.9% area by HPLC). The product contains typically roughly 10% of isomers which can be eliminated by preparative reversed phase chromatography.

reactant | 4-(3-pyridyl)-2-pyrimidine-amine | 1.0 mmol, 172.2 mg | N1=CC(=CC=C1)C1=NC(=NC=C1)N | C9H8N4
reactant | N-(3-bromo-4-methyl-phenyl)-4-(4-methyl-piperazin-1-ylmethyl)-benzamide | 1.0 mmol, 402.4 mg | BrC=1C=C(C=CC1C)NC(C1=CC=C(C=C1)CN1CCN(CC1)C)=O | C20H24BrN3O
reactant | rac-BINAP | 0.050 mmol, 31.2 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | xylene | 3 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | Pd2(dba)3 | 0.013 mmol, 13 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 10 ml | O | H2O
product | 4-(4-methyl-piperazin-1-ylmethyl)-N-[4-methyl-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-phenyl]-benzamide | CN1CCN(CC1)CC1=CC=C(C(=O)NC2=CC(=C(C=C2)C)NC2=NC=CC(=N2)C=2C=NC=CC2)C=C1 | C29H31N7O
